US06911445B2
cis-3-(1H-Indol-3-yl)-cyclopentylamine
This compound was prepared in the same manner as for Intermediate 20, using cis-benzyl-3-(1H-indol-3-yl)-cyclopentylamine (1.3 g, 4.48 mmol) and ammonium formate (1.6 g, 25.3 mmol) to afford 0.8 g (90%) of the desired product as a thick oil which solidified upon standing: MS (ESI) m/z 201 [M+H]+.

reactant | cis-benzyl-3-(1H-indol-3-yl)-cyclopentylamine | 4.48 mmol, 1.3 g | C(C1=CC=CC=C1)N[C@@H]1C[C@@H](CC1)C1=CNC2=CC=CC=C12 | C20H22N2
reactant | ammonium formate | 25.3 mmol, 1.6 g | C(=O)[O-].[NH4+]
product | cis-3-(1H-Indol-3-yl)-cyclopentylamine | 0.8 g, 90% | N1C=C(C2=CC=CC=C12)[C@H]1C[C@H](CC1)N | C13H16N2
